US08293746B2
Step 12.2: 4-(4-Isopropylpiperazin-1-yl)-aniline
A suspension of 1-isopropyl-4-(4-nitro-phenyl)-piperazine (5.18 g, 20.80 mmol) and 5% palladium on carbon (0.5 g) in MeOH (100 mL) is stirred for 2.7 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to afford the title compound as a violet solid: ESI-MS: 220.1 [MH]+; tR=0.95 min (system 1).

reactant | 1-isopropyl-4-(4-nitro-phenyl)-piperazine | 20.80 mmol, 5.18 g | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 4-(4-Isopropylpiperazin-1-yl)-aniline | C(C)(C)N1CCN(CC1)C1=CC=C(N)C=C1 | C13H21N3
